US05135947
A cold solution of 4.0 g of 3-dimethylamino-3-(4-fluorophenyl)propionic acid in 75 ml of ethanol was saturated with hydrogen chloride gas. The mixture was heated at reflux for approximately 16 hours and cooled to room temperature. The mixture was concentrated under vacuum and the residue was dissolved in water. The resulting mixture was washed with diethyl ether and the aqueous phase was made basic with 5N sodium hydroxide. The aqueous phase was extracted twice with diethyl ether and the ether extracts were combined, and washed with water, and a saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The organic phase was concentrated under vacuum to provide 2.83 g of ethyl 3-dimethylamino-3-(4-fluorophenyl)propionate as an oil.

reactant | 3-dimethylamino-3-(4-fluorophenyl)propionic acid | 4.0 g | CN(C(CC(=O)O)C1=CC=C(C=C1)F)C | C11H14FNO2
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 75 ml | C(C)O | C2H6O
product | ethyl 3-dimethylamino-3-(4-fluorophenyl)propionate | 2.83 g | CN(C(CC(=O)OCC)C1=CC=C(C=C1)F)C | C13H18FNO2
